US05922742
Step 6: 3-(4-(Methylsulfonyl)phenyl)-2-(3-pyridinyl)-2-cyclopenten-1-one hydrochloride
To a solution of 3-(4-(methylsulfonyl)phenyl)-2-(3-pyridinyl)-2-cyclopenten-1-one (104 mg, 0.33 mmol) in CH2Cl2 (50 mL) was added methanesulfonic acid (0.02 mL, 0.32 mmol) and the solution was concentrated to give a foam. The foam was swished in Et2O to give 108 mg of the title compound as an off-white solid.

reactant | 3-(4-(methylsulfonyl)phenyl)-2-(3-pyridinyl)-2-cyclopenten-1-one | 0.33 mmol, 104 mg | CS(=O)(=O)C1=CC=C(C=C1)C1=C(C(CC1)=O)C=1C=NC=CC1 | C17H15NO3S
reactant | methanesulfonic acid | 0.32 mmol, 0.02 mL | CS(=O)(=O)O | CH4O3S
reactant | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
product | 3-(4-(Methylsulfonyl)phenyl)-2-(3-pyridinyl)-2-cyclopenten-1-one hydrochloride | 108 mg | Cl.CS(=O)(=O)C1=CC=C(C=C1)C1=C(C(CC1)=O)C=1C=NC=CC1 | InChI=1S/C17H15NO3S.ClH/c1-22(20,21)14-6-4-12(5-7-14)15-8-9-16(19)17(15)13-3-2-10-18-11-13;/h2-7,10-11H,8-9H2,1H3;1H
